US06552022B1
4′-Trifluoromethyl-biphenyl-2-carboxylic Acid [4-[4-(3-cyano-benzyl)-piperazin-1-yl]-phenyl]-amide (Method 1)
To a stirred solution of 4-[4-(3-cyano-benzyl)-piperazin-1-yl]-phenylamine (0.29 g), 4′-trifluoromethyl-biphenyl-2-carboxylic acid (0.26 g), HOBt (0.16 g), and Et3N (0.12 g) in CH2Cl2 (15 mL) was added at room temperature EDCl (0.23 g) and the mixture was stirred at room temperature for 4 hours. The organic solution was then washed with water, with a saturated solution of NaHCO3 and dried over Na2SO4. After filtration and evaporation of the filtrate, the residue was purified by flash chromatography eluting with CH2Cl2/AcOEt (90/10) and the solid obtained was recrystallized from EtOH to give the title compound (0.48 g) as white crystals.

reactant | 4-[4-(3-cyano-benzyl)-piperazin-1-yl]-phenylamine | 0.29 g | C(#N)C=1C=C(CN2CCN(CC2)C2=CC=C(C=C2)N)C=CC1 | C18H20N4
reactant | 4′-trifluoromethyl-biphenyl-2-carboxylic acid | 0.26 g | FC(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)(F)F | C14H9F3O2
reactant | HOBt | 0.16 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 0.23 g | CCN=C=NCCCN(C)C.Cl
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | Et3N | 0.12 g | CCN(CC)CC | C6H15N
product | 4′-Trifluoromethyl-biphenyl-2-carboxylic Acid [4-[4-(3-cyano-benzyl)-piperazin-1-yl]-phenyl]-amide | 0.48 g | C(#N)C=1C=C(CN2CCN(CC2)C2=CC=C(C=C2)NC(=O)C=2C(=CC=CC2)C2=CC=C(C=C2)C(F)(F)F)C=CC1 | C32H27F3N4O
